US03933497
A sample of 8-azido-1-naphthylamine (192 mg., 1.04 mole) was treated at room temperature with 10 ml. of trifluoracetic anhydride. An exothermic reaction took place. The mixture was warmed at 40°C. for 10 minutes and then evaporated to dryness under a stream of nitrogen. The residual solid was recrystallized from n-hexane to yield 1-azido-8-trifluoracetamidonaphthalene in the form of light yellow needles in a yield of 215 mg., 77 percent, m.p. 102°C.-103°C. and an analysis of: Calcd: C, 51.50; H, 2.50; N, 20.50; F, 2070 Found: C, 51.75; H, 2.37; N, 19.74; F, 20.07

reactant | 8-azido-1-naphthylamine | 1.04 mole, 192 mg | N(=[N+]=[N-])C=1C=CC=C2C=CC=C(C12)N | C10H8N4
reactant | trifluoracetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 1-azido-8-trifluoracetamidonaphthalene | N(=[N+]=[N-])C1=CC=CC2=CC=CC(=C12)NC(C(F)(F)F)=O | C12H7F3N4O
